US20010021514A1
I) Preparation of 4-formyl-4′-methyl-2,2′-bipyridine (I)
4,4′-dimethyl-2,2′-bipyridine (8.0 g, 43 mmol) and selenium dioxide (5.29 g, 48 mmol) were suspended in 440 mL of 1,4-dioxane. The mixture was heated to reflux for 24 hours, until thin-layer chromatography (TLC) showed the termination of the reaction. The hot reaction mixture was filtered, cooled, and filtered again. Dioxane was removed under vacuum, and the resulting solid was dissolved in 730 mL of ethyl acetate at 40° C. The resulting light brown solid was filtered, and the filtrate was washed twice with 140 mL of 1 M sodium carbonate. The organic layer was extracted 3 times with 70 ml of sodium metabisulfite. The aqueous extract was adjusted to pH 10 by adding solid sodium carbonate and extracted four times with 140 mL of methylene chloride. The organic layers were combined, dried over sodium sulfate, and evaporated to dryness. The obtained white solid was dried over P2O5 under vacuum. Yield: 46-53%.

reactant | 4,4′-dimethyl-2,2′-bipyridine | 43 mmol, 8.0 g | CC1=CC(=NC=C1)C1=NC=CC(=C1)C | C12H12N2
reactant | selenium dioxide | 48 mmol, 5.29 g | [Se](=O)=O | O2Se
solvent | 1,4-dioxane | 440 mL | O1CCOCC1 | C4H8O2
product | 4-formyl-4′-methyl-2,2′-bipyridine | Yield: 46-53% | C(=O)C1=CC(=NC=C1)C1=NC=CC(=C1)C | C12H10N2O
